US04476127
3 g of 5-amino-4-diethylamino-6-mercapto-2-methylpyrimidine was dissolved in 50 ml of 90% formic acid and refluxed for 2 hours. After the completion of the reaction, formic acid was distilled off under reduced pressure. The residue was added with 30 ml of water, and neutralized with ammonium hydroxide. This aqueous solution was extracted with 200 ml of ethyl acetate and the organic layer was dried over sodium sulphate anhydride. Then the solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica-gel to obtain 7-diethylamino-5-methylthiazolo[5,4-d]pyrimidine (1.6 g).

reactant | 5-amino-4-diethylamino-6-mercapto-2-methylpyrimidine | 3 g | NC=1C(=NC(=NC1S)C)N(CC)CC | C9H16N4S
reactant | formic acid | 50 ml | C(=O)O | CH2O2
product | 7-diethylamino-5-methylthiazolo[5,4-d]pyrimidine | 1.6 g | C(C)N(C=1C2=C(N=C(N1)C)SC=N2)CC | C10H14N4S
